US08349859B2
The solution of 2-chloropyrimidin-4-amine (1 mmol) and sodium methoxide (1.5 mmol) in 10 ml methanol was refluxed for 2 h, after removing of solvent, the residue was dissolved in CH2Cl2 and washed with water, dried over anhydrous NaSO4, concentrated in vacuo to give 2-methoxypyrimidin-4-amine.

reactant | 2-chloropyrimidin-4-amine | 1 mmol | ClC1=NC=CC(=N1)N | C4H4ClN3
reactant | sodium methoxide | 1.5 mmol | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-methoxypyrimidin-4-amine | COC1=NC=CC(=N1)N | C5H7N3O
